US06897261B1
10.0 g (33.6 mmols) of (pentamethylcyclopentadienyl)zirconium trichloride, and 150 ml of tetrahydrofuran were put into a 300-ml two-neck egg-plant flask. To this, dropwise added was a tetrahydrofuran solution (50 ml) of 4.3 g (33.6 mmols) of (tetramethylcyclopentadienyl) lithium that had been separately prepared at 0° C. This was warmed up to room temperature, and then stirred as such for 8 hours. The solvent was evaporated away, and the residue was extracted in 100 ml of dichloromethane. The resulting extract was concentrated and cooled to −20° C. to obtain 5.8 g of (pentamethylcyclopentadienyl)(tetramethylcyclopentadienyl)zirconium dichloride. A part of this was collected and dissolved in dewatered toluene to prepare a catalyst solution having a concentration of 10 μmols/ml.

reactant | (pentamethylcyclopentadienyl)zirconium trichloride | 33.6 mmols, 10.0 g | [Cl-].[Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+3])C)C)C
reactant | (tetramethylcyclopentadienyl) lithium | 33.6 mmols, 4.3 g | CC=1C(=C(C(C1)(C)[Li])C)C
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (pentamethylcyclopentadienyl)(tetramethylcyclopentadienyl)zirconium dichloride | 5.8 g | [Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+2]C1(C(=C(C(=C1)C)C)C)C)C)C)C | InChI=1S/C10H15.C9H13.2ClH.Zr/c1-6-7(2)9(4)10(5)8(6)3;1-6-5-7(2)9(4)8(6)3;;;/h1-5H3;5H,1-4H3;2*1H;/q;;;;+2/p-2
